US05434257
B.1. 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxyphenyl)-2'-deoxycytidine
To a solution of 3',5'-diacetyl-5-bromo-2'-deoxyuridine (8.5 g; 21.7 mmol), methylene chloride (100 ml), triethylamine (8.8 g; 87 mmol) and DMAP (0.13 g) was added 2-mesitylsulfonyl chloride (9.5 g; 43.4 mmol). After stirring at room temperature for 18 h. DBU (6.6 g; 43.5 mmol) and 2-aminophenol (9.5 g; 87 mmol) were added and the solution was stirred for 1 hr. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate aq. solution. The organic layer was purified by flash column chromatography on silica gel to yield the title compound.

reactant | 3',5'-diacetyl-5-bromo-2'-deoxyuridine | 21.7 mmol, 8.5 g | C(C)(=O)[C@@]1(C[C@@H](O[C@@H]1C(O)C(C)=O)N1C(=O)NC(=O)C(=C1)Br)O | C13H15BrN2O7
reactant | triethylamine | 87 mmol, 8.8 g | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylsulfonyl chloride | 43.4 mmol, 9.5 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | DBU | 43.5 mmol, 6.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-aminophenol | 87 mmol, 9.5 g | NC1=C(C=CC=C1)O | C6H7NO
catalyst | DMAP | 0.13 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromo-3',5'-diacetyl-N4 -(2-hydroxyphenyl)-2'-deoxycytidine | BrC=1C(=NC(N([C@H]2C[C@](O)([C@@H](C(O)C(C)=O)O2)C(C)=O)C1)=O)NC1=C(C=CC=C1)O | C19H20BrN3O7
